US04624955
6-Ethyl-3-(2-tolyl)-6H-isoxazolo[3,4-d]pyrazolo[3,4-b]pyridine
4-Chloro-1-ethyl-5-(2-methylbenzoyl)-1H-pyrazolo[3,4-b]pyridine (5.40 g) was refluxed for 2 hours in 300 ml of glacial acetic acid containing 10 ml of concentrated hydrochloric acid and 10 g of hydroxylamine hydrochloride. At the end of this time the reaction mixture was poured into water and extracted with dichloromethane. The organic phase was washed four times with water and once with saturated sodium bicarbonate solution. It was then evaporated and chromatographed over 230-400 mesh silica gel (10% ethyl acetate/dichloromethane) to give 2.21 g of product, mp 168°-170°. This product was recrystallized from ethyl acetate together with the product of another run to give analytically pure material, mp 170°-171° C.

reactant | 4-Chloro-1-ethyl-5-(2-methylbenzoyl)-1H-pyrazolo[3,4-b]pyridine | 5.40 g | ClC1=C2C(=NC=C1C(C1=C(C=CC=C1)C)=O)N(N=C2)CC | C16H14ClN3O
reactant | hydrochloric acid | Cl | ClH
reactant | hydroxylamine hydrochloride | 10 g | Cl.NO
reactant | water | O | H2O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 6-Ethyl-3-(2-tolyl)-6H-isoxazolo[3,4-d]pyrazolo[3,4-b]pyridine | 2.21 g | C(C)N1N=CC2=C1N=CC=1C2=NOC1C1=C(C=CC=C1)C | C16H14N4O
